US06271264B1
198.4 9 of homopiperidine dissolved in 280 mL of diethyl ether was added to a 1 L, 3-necked round-bottomed flask. The mixture was cooled to 5° C. with an ice bath and while stirring, 121 g of allyl bromide in 40 mL of diethyl ether was added slowly to this amine solution. After addition was complete, the reaction mixture was allowed to stir at room temperature for 18 hours. The white precipitate thus formed was filtered and ether was removed at room temperature using a rotary evaporator. The residual liquid was fractionally distilled yielding 72 9 of N-allylhomopiperidine. To a 500 mL 3-necked round-bottomed flask was added 41.8 g of N-allylhomopiperidine dissolved in 50 mL of diethyl ether. After cooling to 5° C. with an ice bath, 36.3 g of allyl bromide in 30 mL diethyl ether was added slowly. After completion of the addition of allyl bromide, the reaction mixture was allowed to warm to room temperature and stirred at room temperature for 24 hours. The solid thus formed was collected by filtration and was washed twice with 1.5 L of diethyl ether. The washed solid was dried under vacuum yielding 67 g of N,N-diallyl-homopiperidinium bromide as a white solid.

reactant | N-allylhomopiperidine | 41.8 g | C(C=C)N1CCCCCC1 | C9H17N
reactant | allyl bromide | 36.3 g | C(C=C)Br | C3H5Br
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | N,N-diallyl-homopiperidinium bromide | 67 g | [Br-].C(C=C)[N+]1(CCCCCC1)CC=C | InChI=1S/C12H22N.BrH/c1-3-9-13(10-4-2)11-7-5-6-8-12-13;/h3-4H,1-2,5-12H2;1H/q+1;/p-1
